US07034039B2
A solution of 4-butoxy-3{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (4.46 g, 10 mmol), N,O-dimethylhydroxyamine hydrochloride (1.17 g, 12 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.30 g, 12 mmol), 1-hydroxybenzotriazole (1.84 g, 12 mmol) and triethylamine (1.7 ml, 12 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crystals were recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl(4butoxy-2-isobutyl-6-{[methoxy(methyl)amino]carbonyl}-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (4.15 g, 84.9%) as crystals.

reactant | 4-butoxy-3{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | 10 mmol, 4.46 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C24H34N2O6
reactant | N,O-dimethylhydroxyamine hydrochloride | 12 mmol, 1.17 g | Cl.CNOC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 12 mmol, 2.30 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 12 mmol, 1.84 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 12 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl(4butoxy-2-isobutyl-6-{[methoxy(methyl)amino]carbonyl}-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 4.15 g, 84.9% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=O)N(C)OC)=O)CC(C)C)=O | C26H39N3O6
